### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Localization): the right derivability structure given by functorial resolutions

### PR DESCRIPTION
**Pull request by joelriou**
In this PR, we provide a constructor for right derivability structures. We assume that `Φ : LocalizerMorphism W₁ W₂` is given by a fully faithful functor `Φ.functor : C₁ ⥤ C₂` and that we have a resolution functor `ρ : C₂ ⥤ C₁` with a natural transformation `i : 𝟭 C₂ ⟶ ρ ⋙ Φ.functor` such that `W₂ (i.app X₂)` for any `X₂ : C₂`. If we assume that `W₁` is induced by `W₂`, that `W₂` is multiplicative and has the two out of three property, then `Φ` is a right derivability structure.

--- 

This PR continues the work from #22586.

Original PR: https://github.com/leanprover-community/mathlib4/pull/22586

### CODE REVIEW

**Comment by joelriou** [comment]
## Comments from Original PR #22586

*This section contains 1 comment(s) from the original PR, excluding bot comments.*

---

**@github-actions** ([2025-03-05 10:32 UTC](https://github.com/leanprover-community/mathlib4/pull/22586#issuecomment-2700512430)):
### PR summary [4a326e0f7e](https://github.com/leanprover-community/mathlib4/pull/22586/commits/4a326e0f7e91280f1c3b2a933b7672f299e8eb22)

#### Import changes for modified files

No significant changes to the import graph


<details><summary>Import changes for all files</summary>

|Files|Import difference|
|-|-|
| `Mathlib.CategoryTheory.Localization.DerivabilityStructure.OfFunctorialResolutions` (new file)|639|

</details>

---

<details><summary>

#### Declarations diff

</summary>

`+ W₁_ι_app`
`+ hasRightResolutions_arrow_of_functorial_resolutions`
`+ isConnected_rightResolution_of_functorial_resolutions`
`+ isLocalizedEquivalence_of_functorial_right_resolutions`
`+ isLocalizedEquivalence_of_unit_of_unit`
`+ isRightDerivabilityStructure_of_functorial_resolutions`
`+ localizerMorphismInv`
`+ Φ_functor_map_ι_app`
`+ ι`
<details>
  <summary>You can run this locally as follows</summary>


```bash
## summary with just the declaration names:
./scripts/declarations_diff.sh <optional_commit>

## more verbose report:
./scripts/declarations_diff.sh long <optional_commit>
```
</details>

The doc-module for `script/declarations_diff.sh` contains some details about this script.

</details>

---

<details><summary>No changes to technical debt.</summary>

You can run this locally as
```
./scripts/technical-debt-metrics.sh pr_summary
```
* The `relative` value is the weighted *sum* of the differences with weight given by the *inverse* of the current value of the statistic.
* The `absolute` value is the `relative` value divided by the total sum of the inverses of the current values (i.e. the weighted *average* of the differences).
</details>

File: Mathlib/CategoryTheory/Localization/DerivabilityStructure/OfFunctorialResolutions.lean [hunk 1]
```diff
@@ -0,0 +1,131 @@
...
+include hi in
+lemma hasRightResolutions_arrow_of_functorial_resolutions :
+    Φ.arrow.HasRightResolutions :=
+  fun f ↦ ⟨{
+    X₁ := Arrow.mk (ρ.map f.hom)
+    w := Arrow.homMk (i.app _) (i.app _) (i.naturality f.hom).symm
+    hw := ⟨hi _, hi _⟩ }⟩
+
+namespace functorialRightResolutions
+
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Localization/DerivabilityStructure/OfFunctorialResolutions.lean:42]:
```suggestion
open Functor

```

otherwise, in current master `whiskerLeft` and `whiskerRight` won’t work

File: Mathlib/CategoryTheory/Localization/DerivabilityStructure/OfFunctorialResolutions.lean [hunk 2]
```diff
@@ -0,0 +1,131 @@
...
+  {ρ : C₂ ⥤ C₁} (i : 𝟭 C₂ ⟶ ρ ⋙ Φ.functor) (hi : ∀ X₂, W₂ (i.app X₂))
+  (hW₁ : W₁ = W₂.inverseImage Φ.functor)
+
+include hi in
+lemma hasRightResolutions_arrow_of_functorial_resolutions :
+    Φ.arrow.HasRightResolutions :=
+  fun f ↦ ⟨{
+    X₁ := Arrow.mk (ρ.map f.hom)
+    w := Arrow.homMk (i.app _) (i.app _) (i.naturality f.hom).symm
+    hw := ⟨hi _, hi _⟩ }⟩
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Localization/DerivabilityStructure/OfFunctorialResolutions.lean]:
```suggestion
  fun f ↦
    ⟨{ X₁ := Arrow.mk (ρ.map f.hom)
       w := Arrow.homMk (i.app _) (i.app _) (i.naturality f.hom).symm
       hw := ⟨hi _, hi _⟩ }⟩
```
First `⟨{` is orphaned.

File: Mathlib/CategoryTheory/Localization/DerivabilityStructure/OfFunctorialResolutions.lean [hunk 3]
```diff
@@ -0,0 +1,131 @@
...
+@[simp]
+lemma Φ_functor_map_ι_app (X₁ : C₁) :
+    Φ.functor.map ((ι i).app X₁) = i.app (Φ.functor.obj X₁) :=
+  NatTrans.congr_app (((whiskeringRight C₁ C₁ C₂).obj Φ.functor).map_preimage
+    (X := 𝟭 C₁) (Y := Φ.functor ⋙ ρ) (whiskerLeft Φ.functor i)) X₁
+
+include hW₁ hi in
+lemma W₁_ι_app (X₁ : C₁) : W₁ ((ι i).app X₁) := by
+  simpa only [hW₁, MorphismProperty.inverseImage_iff, Φ_functor_map_ι_app]
+    using hi (Φ.functor.obj X₁)
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Localization/DerivabilityStructure/OfFunctorialResolutions.lean]:
```suggestion
  simpa [hW₁, MorphismProperty.inverseImage_iff, Φ_functor_map_ι_app]
    using hi (Φ.functor.obj X₁)
```

File: Mathlib/CategoryTheory/Localization/DerivabilityStructure/OfFunctorialResolutions.lean [hunk 4]
```diff
@@ -0,0 +1,131 @@
...
+    dsimp at this
+    simp only [MorphismProperty.inverseImage_iff]
+    rw [← W₂.precomp_iff _ _ (hi X), ← this]
+    exact W₂.comp_mem _ _ hf (hi Y)
+
+variable [Φ.functor.Full] [Φ.functor.Faithful]
+
+variable (i) in
+/-- If `Φ : LocalizerMorphism W₁ W₂` corresponds to a class `W₁` that is
+induced by `W₂` via the fully faithful functor `Φ.functor` and that we
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Localization/DerivabilityStructure/OfFunctorialResolutions.lean]:
```suggestion
induced by `W₂` via the fully faithful functor `Φ.functor` and we
```

File: Mathlib/CategoryTheory/Localization/LocalizerMorphism.lean [hunk 5]
```diff
@@ -177,6 +177,27 @@ instance IsLocalizedEquivalence.isLocalization [Φ.IsLocalizedEquivalence] :
...
+      exact fun _ ↦ Localization.inverts W₁.Q W₁ _ (hε₁ _)
+    have : IsIso (whiskerRight ε₂ W₂.Q) := by
+      rw [NatTrans.isIso_iff_isIso_app]
+      exact fun _ ↦ Localization.inverts W₂.Q W₂ _ (hε₂ _)
+    refine (Localization.equivalence W₁.Q W₁ W₂.Q W₂ (Φ.functor ⋙ W₂.Q)
+      (Φ.localizedFunctor W₁.Q W₂.Q)
+      (Ψ.functor ⋙ W₁.Q) (Ψ.localizedFunctor W₂.Q W₁.Q) ?_ ?_).isEquivalence_functor
+    · exact Functor.associator _ _ _ ≪≫
+        isoWhiskerLeft _ (CatCommSq.iso Ψ.functor W₂.Q W₁.Q _).symm ≪≫
+        (asIso (whiskerRight ε₁ W₁.Q)).symm ≪≫ Functor.leftUnitor _
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Localization/LocalizerMorphism.lean]:
```suggestion
        isoWhiskerLeft _ (CatCommSq.iso Ψ.functor W₂.Q W₁.Q _).symm ≪≫ 
        (Functor.associator _ _ _).symm ≪≫
        (asIso (whiskerRight ε₁ W₁.Q)).symm ≪≫ Functor.leftUnitor _
```
`asIso (whiskerRight ε₁ W₁.Q) : 𝟭 C₂ ⋙ W₂.Q ≅ (Ψ.functor ⋙ Φ.functor) ⋙ W₂.Q` so we need to re-associate here I think.

File: Mathlib/CategoryTheory/Localization/LocalizerMorphism.lean [hunk 6]
```diff
@@ -177,6 +177,27 @@ instance IsLocalizedEquivalence.isLocalization [Φ.IsLocalizedEquivalence] :
...
+    · exact Functor.associator _ _ _ ≪≫
+        isoWhiskerLeft _ (CatCommSq.iso Φ.functor W₁.Q W₂.Q _).symm ≪≫
+        (asIso (whiskerRight ε₂ W₂.Q)).symm ≪≫ Functor.leftUnitor _
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Localization/LocalizerMorphism.lean]:
```suggestion
        isoWhiskerLeft _ (CatCommSq.iso Φ.functor W₁.Q W₂.Q _).symm ≪≫
        (Functor.associator _ _ _).symm ≪≫
        (asIso (whiskerRight ε₂ W₂.Q)).symm ≪≫ Functor.leftUnitor _
```

**Review by robin-carlier — COMMENTED** [review]
Sorry for dropping the ball for a while on this one.

File: Mathlib/CategoryTheory/Localization/DerivabilityStructure/OfFunctorialResolutions.lean [hunk 7]
```diff
@@ -0,0 +1,128 @@
+/-
+Copyright (c) 2025 Joël Riou. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Joël Riou
+-/
+import Mathlib.CategoryTheory.Localization.DerivabilityStructure.Constructor
+
+/-!
+# Functorial resolutions gives derivability structures
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Localization/DerivabilityStructure/OfFunctorialResolutions.lean]:
```suggestion
# Functorial resolutions give derivability structures
```

**Review by robin-carlier — APPROVED** [review]

**Comment by robin-carlier** [comment]
Thanks!

maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
